US04111923
(f) O-Methyl-D-tyrosine hydrochloride
N-Acetyl-O-methyl-D-tyrosine, 24 g. is heated in 100 ml. of water and 100 ml. of concentrated hydrochloric acid for seven hours on a steam bath and let cool to room temperature overnight. The flask is swirled gently and the product crystallizes. It is separated by filtration, washed with a small amount of isopropanol, then with ether and dried to give 16.1 g. of the above named compound, [α]D23 +7.4° (c 2.02, DMF).

reactant | N-Acetyl-O-methyl-D-tyrosine | C(C)(=O)N[C@H](CC1=CC=C(C=C1)OC)C(=O)O | C12H15NO4
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
product | O-Methyl-D-tyrosine hydrochloride | Cl.COC1=CC=C(C[C@@H](N)C(=O)O)C=C1 | InChI=1S/C10H13NO3.ClH/c1-14-8-4-2-7(3-5-8)6-9(11)10(12)13;/h2-5,9H,6,11H2,1H3,(H,12,13);1H/t9-;/m1./s1
